US08957089B2
82.7 3-({1-[1-(4-Chlorophenyl)cyclobutyl]-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)-N-propylpropane-1-sulfonamide hydrochloride
3-({1-[1-(4-Chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)-N-propylpropane-1-sulfonamide (260 mg, 0.547 mmol) was dissolved in methanol (5 mL) and water (0.2 mL). Sodiumborohydride (41.4 mg, 1.095 mmol) was added in small portions at room temperature and the reaction mixture was stirred over night. 5N Hydrochloric acid in isopropanol was added until the reaction mixture became acidic. Stirring was continued for 30 min at room temperature. The reaction mixture was concentrated in vacuo. The crude product was dissolved in dichloromethane. Aqueous saturated NaHCO3 solution (10 mL) and water (10 mL) were added and the aqueous layer was extracted with dichloromethane (2×). The combined organic layers were dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography (silica, first dichloromethane, then dichloromethane:methanol=80:1). The purified product was treated with 2N hydrochloric acid in diethylether. The diethylether was removed by destillation. Yield: 120 mg (0.234 mmol, 42.7%, colorless foam).

reactant | 3-({1-[1-(4-Chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)-N-propylpropane-1-sulfonamide | 0.547 mmol, 260 mg | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCCS(=O)(=O)NCCC | C25H31ClN2O3S
reactant | Sodiumborohydride | 1.095 mmol, 41.4 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | 5N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 0.2 mL | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-({1-[1-(4-Chlorophenyl)cyclobutyl]-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)-N-propylpropane-1-sulfonamide hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCC1)C1NCCC2=CC=C(C=C12)OCCCS(=O)(=O)NCCC | InChI=1S/C25H33ClN2O3S.ClH/c1-2-14-28-32(29,30)17-4-16-31-22-10-5-19-11-15-27-24(23(19)18-22)25(12-3-13-25)20-6-8-21(26)9-7-20;/h5-10,18,24,27-28H,2-4,11-17H2,1H3;1H
